US04977166
The procedure of Example 1 is followed, but starting with 4-(2-bromoethyl)-3,4-dihydro-(2H)-benzopyran (5 g), 1-(4-nitrophenyl)piperazine (4.3 g) and from dry potassium carbonate (1.43 g), followed by potassium iodide (3.43 g) in 2-butanone (200 cc). The residue obtained is chromatographed on a column 4.4 cm in diameter, containing silica gel (100 g), using a dichloromethane-ethyl acetate mixture (50-50 by volume) as eluent, and collecting 20-cc fractions. The fractions between 100 and 300 cc are concentrated to dryness. The residue obtained is crystallized from isopropyl acetate (30 cc). 1-[2-(3,4-Dihydro-1(2H)-benzopyran-4-yl)ethyl]-4-(4-nitrophenyl)-piperazine (3.48 g) is thus obtained in the form of a yellow solid melting at 110° C.

reactant | 4-(2-bromoethyl)-3,4-dihydro-(2H)-benzopyran | 5 g | BrCCC1CCOC2=C1C=CC=C2 | C11H13BrO
reactant | 1-(4-nitrophenyl)piperazine | 4.3 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | potassium carbonate | 1.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.43 g | [I-].[K+]
solvent | 2-butanone | 200 cc | CC(CC)=O | C4H8O
product | 1-[2-(3,4-Dihydro-1(2H)-benzopyran-4-yl)ethyl]-4-(4-nitrophenyl)-piperazine | 3.48 g | O1CCC(C2=C1C=CC=C2)CCN2CCN(CC2)C2=CC=C(C=C2)[N+](=O)[O-] | C21H25N3O3
